US07915261B2
An aqueous 1 M sodium hydroxide solution (7.65 ml) was added to a THF (20 ml) solution containing 5-[(acetoxy)methyl]pyridin-3-yl 4-{4-[(3-fluorobenzyl)oxy]phenoxy}piperidine-1-carboxylate oxalate (1.10 g), followed by stirring at 65° C. for 3 hours. The reaction liquid was neutralized with 1 M hydrochloric acid, followed by extraction with chloroform and drying over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: chloroform:methanol=12:1 (v/v)) to obtain 5-(hydroxymethyl)piperidin-3-yl 4-{4-[(3-fluorobenzyl)oxy]phenoxy}piperidine-1-carboxylate (770 mg).

reactant | sodium hydroxide | 1 M, 7.65 ml | [OH-].[Na+]
reactant | 5-[(acetoxy)methyl]pyridin-3-yl 4-{4-[(3-fluorobenzyl)oxy]phenoxy}piperidine-1-carboxylate oxalate | 1.10 g | C(C(=O)O)(=O)O.FC=1C=C(COC2=CC=C(OC3CCN(CC3)C(=O)OC=3C=NC=C(C3)COC(C)=O)C=C2)C=CC1
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 5-(hydroxymethyl)piperidin-3-yl 4-{4-[(3-fluorobenzyl)oxy]phenoxy}piperidine-1-carboxylate | 770 mg | FC=1C=C(COC2=CC=C(OC3CCN(CC3)C(=O)OC3CNCC(C3)CO)C=C2)C=CC1 | C25H31FN2O5
